US05449785
A mixture of (2S,3R,4S,5S)-4-methoxy-5-methyl-2-[(E)-1-nonenyl]tetrahydro-2H-pyran-3-amine (5.2 mg), N-(tert-butoxycarbonyl)glycine (10.1 mg), 4-dimethylaminopyridine (7.0 mg), and dicyclohexylcarbodiimide (12.0 mg) in dichloromethane (0.5 ml) was stirred for 2 hours at room temperature. The reaction was quenched by addition of water. The mixture was extracted with dichloromethane, and the organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification of the residue by preparative thin layer chromatography (ethylacetate as an eluent) gave (2S,3R,4S,5S)-3-[[(tert-butoxycarbonylamino)acetyl]amino]-4-methoxy-5-methyl-2-[(E)-1-nonenyl]tetrahydro-2H-pyran (6.3 mg, y. 79%).

reactant | (2S,3R,4S,5S)-4-methoxy-5-methyl-2-[(E)-1-nonenyl]tetrahydro-2H-pyran-3-amine | 5.2 mg | CO[C@@H]1[C@H]([C@@H](OC[C@@H]1C)\C=C\CCCCCCC)N | C16H31NO2
reactant | N-(tert-butoxycarbonyl)glycine | 10.1 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | dicyclohexylcarbodiimide | 12.0 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 7.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | (2S,3R,4S,5S)-3-[[(tert-butoxycarbonylamino)acetyl]amino]-4-methoxy-5-methyl-2-[(E)-1-nonenyl]tetrahydro-2H-pyran | 6.3 mg, 79% | C(C)(C)(C)OC(=O)NCC(=O)N[C@H]1[C@@H](OC[C@@H]([C@@H]1OC)C)\C=C\CCCCCCC | C23H42N2O5
